************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECE555
* Top Cell Name: neuron
* View Name:     schematic
* Netlisted on:  Dec  8 18:14:26 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ECE555
* Cell Name:    INV
* View Name:    schematic
************************************************************************

.SUBCKT INV IN OUT vdd vss
*.PININFO IN:I OUT:O vdd:B vss:B
MM0 OUT IN vss vss nmos_rvt w=81.0n l=20n nfin=3
MM1 OUT IN vdd vdd pmos_rvt w=81.0n l=20n nfin=3
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    AND_2
* View Name:    schematic
************************************************************************

.SUBCKT AND_2 A B Y vdd vss
*.PININFO A:I B:I Y:O vdd:B vss:B
MM2 Y net2 vss vss nmos_rvt w=54.0n l=20n nfin=2
MM1 net2 B net1 vss nmos_rvt w=108.00n l=20n nfin=4
MM0 net1 A vss vss nmos_rvt w=108.00n l=20n nfin=4
MM5 Y net2 vdd vdd pmos_rvt w=81.0n l=20n nfin=3
MM4 net2 B vdd vdd pmos_rvt w=81.0n l=20n nfin=3
MM3 net2 A vdd vdd pmos_rvt w=81.0n l=20n nfin=3
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    3b_2_1_MUX_vert
* View Name:    schematic
************************************************************************

.SUBCKT 3b_2_1_MUX_vert A<2> A<1> A<0> VDD VSS Y<2> Y<1> Y<0>
*.PININFO A<2>:I A<1>:I A<0>:I Y<2>:O Y<1>:O Y<0>:O VDD:B VSS:B
XI4 VDD Y<2> VDD VSS / INV
XI0 A<2> net2 VDD VSS / INV
XI2 A<0> net2 Y<0> VDD VSS / AND_2
XI1 A<1> net2 Y<1> VDD VSS / AND_2
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND IN1 IN2 OUT VDD VSS
*.PININFO IN1:I IN2:I OUT:O VDD:B VSS:B
MM3 VSS IN1 net7 VSS nmos_rvt w=54.0n l=20n nfin=2
MM1 net1 IN2 VSS VSS nmos_rvt w=54.0n l=20n nfin=2
MM2 net7 IN2 OUT VSS nmos_rvt w=54.0n l=20n nfin=2
MM0 OUT IN1 net1 VSS nmos_rvt w=54.0n l=20n nfin=2
MM5 VDD IN2 OUT VDD pmos_rvt w=81.0n l=20n nfin=3
MM4 OUT IN1 VDD VDD pmos_rvt w=81.0n l=20n nfin=3
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    MULT2
* View Name:    schematic
************************************************************************

.SUBCKT MULT2 A<1> A<0> B<1> B<0> Y<1> Y<0> vdd vss
*.PININFO A<1>:I A<0>:I B<1>:I B<0>:I Y<1>:O Y<0>:O vdd:B vss:B
XI1 A<1> net10 vdd vss / INV
XI0 B<1> net7 vdd vss / INV
XI3 Y<0> net17 Y<1> vdd vss / AND_2
XI2 B<0> A<0> Y<0> vdd vss / AND_2
XI6 net24 net29 net17 vdd vss / NAND
XI5 net10 B<1> net29 vdd vss / NAND
XI4 net7 A<1> net24 vdd vss / NAND
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    MIRRORFA_noCIN
* View Name:    schematic
************************************************************************

.SUBCKT MIRRORFA_noCIN A B Cout Sum VDD VSS
*.PININFO A:I B:I Cout:O Sum:O VDD:B VSS:B
XI0 A B Cout VDD VSS / NAND
MM7 Sum Cout net6 VSS nmos_rvt w=108.00n l=20n nfin=4
MM1 net6 B VSS VSS nmos_rvt w=108.00n l=20n nfin=4
MM0 net6 A VSS VSS nmos_rvt w=108.00n l=20n nfin=4
MM6 Sum Cout VDD VDD pmos_rvt w=81.0n l=20n nfin=3
MM5 Sum A net22 VDD pmos_rvt w=162.00n l=20n nfin=6
MM4 net22 B VDD VDD pmos_rvt w=162.00n l=20n nfin=6
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    MIRRORFA_frontend
* View Name:    schematic
************************************************************************

.SUBCKT MIRRORFA_frontend A B Cin Cout VDD VSS
*.PININFO A:I B:I Cin:I Cout:O VDD:B VSS:B
MM4 Cout A net13 VSS nmos_rvt w=108.00n l=20n nfin=4
MM3 net13 B VSS VSS nmos_rvt w=108.00n l=20n nfin=4
MM2 Cout Cin net1 VSS nmos_rvt w=108.00n l=20n nfin=4
MM1 net1 B VSS VSS nmos_rvt w=108.00n l=20n nfin=4
MM0 net1 A VSS VSS nmos_rvt w=108.00n l=20n nfin=4
MM9 net35 B VDD VDD pmos_rvt w=162.00n l=20n nfin=6
MM8 Cout A net35 VDD pmos_rvt w=162.00n l=20n nfin=6
MM7 net23 B VDD VDD pmos_rvt w=162.00n l=20n nfin=6
MM6 net23 A VDD VDD pmos_rvt w=162.00n l=20n nfin=6
MM5 Cout Cin net23 VDD pmos_rvt w=162.00n l=20n nfin=6
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    XOR
* View Name:    schematic
************************************************************************

.SUBCKT XOR A B OUT VDD VSS
*.PININFO A:I B:I OUT:O VDD:B VSS:B
XI10 net8 net13 OUT VDD VSS / NAND
XI9 net1 B net13 VDD VSS / NAND
XI8 A net1 net8 VDD VSS / NAND
XI7 A B net1 VDD VSS / NAND
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    FRANKENFA
* View Name:    schematic
************************************************************************

.SUBCKT FRANKENFA A B Cin Cout Sum VDD VSS
*.PININFO A:I B:I Cin:I Cout:O Sum:O VDD:B VSS:B
XI0 A B Cin net4 VDD VSS / MIRRORFA_frontend
XI1 net4 Cout VDD VSS / INV
XI3 net12 Cin Sum VDD VSS / XOR
XI2 A B net12 VDD VSS / XOR
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    ADDER2
* View Name:    schematic
************************************************************************

.SUBCKT ADDER2 A<1> A<0> B<1> B<0> SUM<2> SUM<1> SUM<0> VDD VSS
*.PININFO A<1>:I A<0>:I B<1>:I B<0>:I SUM<2>:O SUM<1>:O SUM<0>:O VDD:B VSS:B
XI5 A<0> B<0> net4 net5 VDD VSS / MIRRORFA_noCIN
XI7 net4 net8 VDD VSS / INV
XI6 net5 SUM<0> VDD VSS / INV
XI8 A<1> B<1> net8 SUM<2> SUM<1> VDD VSS / FRANKENFA
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    CONV_NO_COUT
* View Name:    schematic
************************************************************************

.SUBCKT CONV_NO_COUT A B Cin Sum VDD VSS
*.PININFO A:I B:I Cin:I Sum:O VDD:B VSS:B
XI4 A B net1 VDD VSS / XOR
XI5 net1 Cin Sum VDD VSS / XOR
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    ADDER3
* View Name:    schematic
************************************************************************

.SUBCKT ADDER3 A<2> A<1> A<0> B<2> B<1> B<0> SUM<2> SUM<1> SUM<0> VDD VSS
*.PININFO A<2>:I A<1>:I A<0>:I B<2>:I B<1>:I B<0>:I SUM<2>:O SUM<1>:O SUM<0>:O 
*.PININFO VDD:B VSS:B
XI7 A<1> B<1> net1 net9 SUM<1> VDD VSS / FRANKENFA
XI8 A<0> B<0> net13 net4 VDD VSS / MIRRORFA_noCIN
XI9 A<2> B<2> net9 SUM<2> VDD VSS / CONV_NO_COUT
XI11 net13 net1 VDD VSS / INV
XI10 net4 SUM<0> VDD VSS / INV
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    neuron
* View Name:    schematic
************************************************************************

.SUBCKT neuron VDD VSS Z<2> Z<1> Z<0> w0<1> w0<0> w1<1> w1<0> w2<2> w2<1> 
+ w2<0> x0<1> x0<0> x1<1> x1<0>
*.PININFO w0<1>:I w0<0>:I w1<1>:I w1<0>:I w2<2>:I w2<1>:I w2<0>:I x0<1>:I 
*.PININFO x0<0>:I x1<1>:I x1<0>:I Z<2>:O Z<1>:O Z<0>:O VDD:B VSS:B
XI6 net7<0> net7<1> net7<2> VDD VSS Z<2> Z<1> Z<0> / 3b_2_1_MUX_vert
XI3 x1<1> x1<0> w1<1> w1<0> net2<0> net2<1> VDD VSS / MULT2
XI2 x0<1> x0<0> w0<1> w0<0> net3<0> net3<1> VDD VSS / MULT2
XI4 net3<0> net3<1> net2<0> net2<1> net4<0> net4<1> net4<2> VDD VSS / ADDER2
XI5 net4<0> net4<1> net4<2> w2<2> w2<1> w2<0> net7<0> net7<1> net7<2> VDD VSS 
+ / ADDER3
.ENDS

